US04260824
Preparation of 1-(4-bromophenyl)-1-ethyl-3-benzenesulfonylurea
A solution was prepared containing 4.0 g (0.02 mole) of 4-bromo-N-ethylaniline in 25 ml of benzene and one drop each of triethylamine and dibutyltin dilaurate. A solution of 3.7 g (0.02 mole) of benzenesulfonylisocyanate was added to the first solution. The temperature was allowed to rise to 35° C. The mixture was stirred for 2 hours at room temperature and for one-half hour at 40°-45° C.

reactant | 4-bromo-N-ethylaniline | 0.02 mole, 4.0 g | BrC1=CC=C(NCC)C=C1 | C8H10BrN
reactant | benzenesulfonylisocyanate | 0.02 mole, 3.7 g | C1(=CC=CC=C1)S(=O)(=O)N=C=O | C7H5NO3S
solvent | benzene | 25 ml | C1=CC=CC=C1 | C6H6
catalyst | triethylamine | one drop | C(C)N(CC)CC | C6H15N
solvent | dibutyltin dilaurate | C(CCCCCCCCCCC)(=O)[O-].C(CCCCCCCCCCC)(=O)[O-].C(CCC)[Sn+2]CCCC
product | 1-(4-bromophenyl)-1-ethyl-3-benzenesulfonylurea | BrC1=CC=C(C=C1)N(C(=O)NS(=O)(=O)C1=CC=CC=C1)CC | C15H15BrN2O3S
